US07323475B2
a) 4-Hydroxy-7-(4-nitro-phenoxy)-isoquinoline-3-carboxylic acid butyl ester
2.0 g of 4-Hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester, Example D-7f, was dissolved in 15 ml of TFA. 0.375 ml of fuming nitric acid was added slowly to the solution, and the resultant mixture was stirred at room temperature for 7 hours. The reaction mixture was concentrated under vacuum, and the resultant residue was purified by column chromatography on silica gel, eluting with 0-20% ethyl acetate in dichloromethane. The crude product obtained was triturated with methanol to produce 1.0 g of white solid; MS (+): m/z 383.01 (M+1).

reactant | 4-Hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester | 2.0 g | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)OC1=CC=CC=C1 | C20H19NO4
reactant | nitric acid | 0.375 ml | [N+](=O)(O)[O-] | HNO3
solvent | TFA | 15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Hydroxy-7-(4-nitro-phenoxy)-isoquinoline-3-carboxylic acid butyl ester | 1.0 g | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)OC1=CC=C(C=C1)[N+](=O)[O-] | C20H18N2O6
